US06638321B1
a) Preparation of 1-(2-Hydroxy-5-nitrobenzyl)-3-methyl-3H-imidazol-1-ium Chloride
Starting with 56.3 g (0.3 mol) of 2-chloromethyl-4-nitrophenol and 29.6 g (0.36 mol) of 1-methyl-1H-imidazole, 65.1 g of yellow crystals melting with decomposition at 250-260° C. (Kofler) were obtained, the elemental analysis of which, calculated for C11H12N3O3Cl, was:

reactant | 2-chloromethyl-4-nitrophenol | 0.3 mol, 56.3 g | ClCC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H6ClNO3
reactant | 1-methyl-1H-imidazole | 0.36 mol, 29.6 g | CN1C=NC=C1 | C4H6N2
product | 1-(2-Hydroxy-5-nitrobenzyl)-3-methyl-3H-imidazol-1-ium Chloride | [Cl-].OC1=C(C[N+]2=CN(C=C2)C)C=C(C=C1)[N+](=O)[O-] | InChI=1S/C11H11N3O3.ClH/c1-12-4-5-13(8-12)7-9-6-10(14(16)17)2-3-11(9)15;/h2-6,8H,7H2,1H3;1H
